US08859596B2
(R)—N-((tetrahydrofuran-2-yl)methyl)cyanamide
To a stirred mixture of cyanogen bromide (2.2 g, 20.8 mmol) and anhydrous Na2CO3 (4.2 g, 39.6 mmol) in dry ether (30 mL) cooled between −20 and −10° C. was added (R)-(tetrahydro-furan-2-yl)-methylamine (Aldrich) (2.0 g, 19.8 mmol) over 10 minutes. Stirring was continued for an additional 1.5 hours at −20 to −10° C. Then the mixture was filtered and concentrated to provide 2.21 g of the title product. MS (ESI) m/z 127 (M+H)+.

reactant | cyanogen bromide | 20.8 mmol, 2.2 g | N#CBr | CBrN
reactant | Na2CO3 | 39.6 mmol, 4.2 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | (R)-(tetrahydro-furan-2-yl)-methylamine | 19.8 mmol, 2.0 g | O1[C@H](CCC1)NC | C5H11NO
solvent | ether | 30 mL | CCOCC | C4H10O
product | (R)—N-((tetrahydrofuran-2-yl)methyl)cyanamide | 2.21 g | O1[C@H](CCC1)CNC#N | C6H10N2O
